US05506219
A solution of (E)-7-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-5-hydroxy-3-oxo-6-heptenoic acid, methyl ester (357 mg, 0.77 mmol) in THF (12 ml) was treated with triethylborane (1.0M in THF, 1.62 ml, 1.62 mmol). Twenty five milliliters of air was bubbled through the solution and the mixture was stirred at room temperature for 30 minutes. The solution was cooled to -78° C. and treated with NaBH4 (29.4 mg, 0.78 mmol) followed by dropwise addition of dry methanol (1.90 ml). After stirring at -78° C. for 1.5 hours, the mixture was quenched with 30% H2O2 (3.5 ml) in H2O (11 ml). The mixture was kept at -78° C. for 15 minutes, then warmed to room temperature and stirred for 30 minutes. The solution was poured into 50% saturated NaHCO3 and extracted with Et2O (3×). The Et2O extracts were combined, washed with H2O, saturated NaHCO3 and brine, then dried (Na2SO4). Filtration and removal of the solvent gave a yellow oil which was chromatographed (Flash, Merck SiO2, 40% EtOAc in hexane) to afford (3R, 5S, 6E)-7-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-3,5-dihydroxy-6-heptenoic acid, methyl ester (320 mg, 89%) as a colorless oily foam.

reactant | (E)-7-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-5-hydroxy-3-oxo-6-heptenoic acid, methyl ester | 0.77 mmol, 357 mg | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C(C)C)/C=C/C(CC(CC(=O)OC)=O)O | C28H28FNO4
reactant | triethylborane | 1.62 mmol, 1.0M, 1.62 ml | C(C)B(CC)CC | C6H15B
reactant | NaBH4 | 0.78 mmol, 29.4 mg | [BH4-].[Na+]
reactant | methanol | 1.90 ml | CO | CH4O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | (3R, 5S, 6E)-7-[4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinyl]-3,5-dihydroxy-6-heptenoic acid, methyl ester | 320 mg, 89% | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C(C)C)/C=C/[C@H](C[C@H](CC(=O)OC)O)O | C28H30FNO4
